US07723333B2
1-(5-Fluoropyridin-2-yl)piperidin-4-amine dihydrochloride
A solution of tert-butyl (1-(5-fluoropyridin-2-yl)piperidin-4-yl)carbamate (0.36 g, 1.22 mmol) in HCl in Dioxane (4M, 2 mL), THF (2 mL) and MeOH (2 mL) was stirred at rt. After 4 h the reaction mixture was filtered, the residue washed with EtOAc and dried to give the title compound (0.31 g, 96%) as a solid. 1H NMR (500 MHz, CD3OD): 8.10-8.02 (m, 2H), 7.52 (dd, 1H), 4.34-4.26 (m, 2H), 3.61-3.50 (m, 1H), 3.38 (dt, 2H), 2.28-2.21 (m, 2H), 1.80 (dq, 2H); 13C NMR (CD3OD): 153.2, 151.2, 151.0, 134.5, 134.3, 123.9, 123.6, 115.0, 114.9, 45.3, 29.1; Mass Spectrum: M+H 196.

reactant | tert-butyl (1-(5-fluoropyridin-2-yl)piperidin-4-yl)carbamate | 1.22 mmol, 0.36 g | FC=1C=CC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O | C15H22FN3O2
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | MeOH | 2 mL | CO | CH4O
reactant | HCl | Cl | ClH
solvent | Dioxane | 4M, 2 mL | O1CCOCC1 | C4H8O2
product | 1-(5-Fluoropyridin-2-yl)piperidin-4-amine dihydrochloride | 0.31 g, 96% | Cl.Cl.FC=1C=CC(=NC1)N1CCC(CC1)N | InChI=1S/C10H14FN3.2ClH/c11-8-1-2-10(13-7-8)14-5-3-9(12)4-6-14;;/h1-2,7,9H,3-6,12H2;2*1H
